US09193692B2
A. (E)-5-bromo-N-((dimethylamino)methylene)picolinamide
A solution of 5-bromopicolinamide (0.500 g, 2.49 mmol) and dimethylformamide dimethylacetal (20 mL), were heated to 85° C. for 3 h. The reaction was concentrated and the product was used directly in the next step (0.604 g, 95% yield). MS (ESI) m/z 257.1 [M+1]+.

reactant | 5-bromopicolinamide | 2.49 mmol, 0.500 g | BrC=1C=CC(=NC1)C(=O)N | C6H5BrN2O
reactant | dimethylformamide dimethylacetal | 20 mL | COC(N(C)C)OC | C5H13NO2
product | (E)-5-bromo-N-((dimethylamino)methylene)picolinamide | 95% yield | BrC=1C=CC(=NC1)C(=O)/N=C/N(C)C | C9H10BrN3O
